

*---------- 2N7002T Spice Model (HXY, LCSC C7507460) ----------
.SUBCKT N7002T 10 20 30 
*     TERMINALS:  D  G  S
M1 10 20 30 30 NMOS1 L = 1E-006 W = 1E-006 
* Simple MOS1 model for 2N7002T
* VTO and KP measured on the bench
.model NMOS1 NMOS 
+ LEVEL=3 
+ VTO=1.395
+ KP=0.014
+ RD=1
+ RS=1

* Capacitance from datasheet, not measured
* Capacitances from datasheet
* Cgd = Crss = 5pF
CGD 10 20 5e-12
* Cds = Coss - Cgd. Coss=25pF
CDS 10 30 20e-12
* Cgs = Ciss - Cgd. Ciss=50pF
CGS 20 30 45e-12


.ENDS
