* PWL waveform for A
VA A 0 PWL(0.0n 0.0V 30.0n 0.0V 200.0n 0.0V 230.0n 3.3V 400.0n 3.3V 430.0n 0.0V 600.0n 0.0V 630.0n 0.0V 800.0n 0.0V 830.0n 0.0V 1000.0n 0.0V 1030.0n 3.3V 1200.0n 3.3V 1230.0n 3.3V 1400.0n 3.3V 1430.0n 0.0V 1600.0n 0.0V 1630.0n 3.3V 1800.0n 3.3V 1830.0n 3.3V 2000.0n 3.3V 2030.0n 0.0V 2200.0n 0.0V 2230.0n 3.3V 2400.0n 3.3V 2430.0n 0.0V)
* PWL waveform for B
VB B 0 PWL(0.0n 0.0V 30.0n 0.0V 200.0n 0.0V 230.0n 0.0V 400.0n 0.0V 430.0n 0.0V 600.0n 0.0V 630.0n 3.3V 800.0n 3.3V 830.0n 0.0V 1000.0n 0.0V 1030.0n 3.3V 1200.0n 3.3V 1230.0n 0.0V 1400.0n 0.0V 1430.0n 3.3V 1600.0n 3.3V 1630.0n 0.0V 1800.0n 0.0V 1830.0n 3.3V 2000.0n 3.3V 2030.0n 3.3V 2200.0n 3.3V 2230.0n 3.3V 2400.0n 3.3V 2430.0n 0.0V)
