.include "../NOT/NOT.ckt"
.include "../NAND2/NAND2.ckt"
.include "../D_LATCH/D_LATCH.ckt"

.subckt PULSE_GENERATOR P nP C VDD VSS
    R1 C D 330
    C1 D 0 100p
    X1 nD D VDD VSS NOT
    XN10 P0 C nD VDD VSS NAND2
    XN20 nP0 P0 VDD VSS NOT
    XN21 P nP0 VDD VSS NOT
    XN22 nP P0 VDD VSS NOT
.ends

.subckt PULSED_DFF Q nQ D C VDD VSS 
    XU1 P nP C VDD VSS PULSE_GENERATOR
    XU2 Q nQ D nP P VDD VSS D_LATCH
.ends
.END