* PWL waveform for A
VA A 0 PWL(0.0n 0V 30.0n 0V 200.0n 0V 230.0n {vdd} 400.0n {vdd} 430.0n 0V 600.0n 0V 630.0n 0V 800.0n 0V 830.0n 0V 1000.0n 0V 1030.0n {vdd} 1200.0n {vdd} 1230.0n {vdd} 1400.0n {vdd} 1430.0n 0V 1600.0n 0V 1630.0n {vdd} 1800.0n {vdd} 1830.0n {vdd} 2000.0n {vdd} 2030.0n 0V 2200.0n 0V 2230.0n {vdd} 2400.0n {vdd} 2430.0n 0V)
* PWL waveform for B
VB B 0 PWL(0.0n 0V 30.0n 0V 200.0n 0V 230.0n 0V 400.0n 0V 430.0n 0V 600.0n 0V 630.0n {vdd} 800.0n {vdd} 830.0n 0V 1000.0n 0V 1030.0n {vdd} 1200.0n {vdd} 1230.0n 0V 1400.0n 0V 1430.0n {vdd} 1600.0n {vdd} 1630.0n 0V 1800.0n 0V 1830.0n {vdd} 2000.0n {vdd} 2030.0n {vdd} 2200.0n {vdd} 2230.0n {vdd} 2400.0n {vdd} 2430.0n 0V)
